US06150352
Step 4.1B 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-5-iodo-benzoic acid methyl ester
To a solution of 2-amino-4-chloro-5-iodobenzoic acid methyl ester (2.26 g in 25 mL dichloroethane) was added (3,5-dimethylphenyl) acetyl chloride (1.2 g in 15 mL dichloroethane) and the mixture heated to 75° C. on an oil bath. After 3 hours, the reaction was cooled and the solvent removed in vacuo. The title compound was isolated by crystallization from methanol (2.7 g).

reactant | 2-amino-4-chloro-5-iodobenzoic acid methyl ester | 25 mL, 2.26 g | COC(C1=C(C=C(C(=C1)I)Cl)N)=O | C8H7ClINO2
reactant | (3,5-dimethylphenyl) acetyl chloride | 15 mL, 1.2 g | CC=1C=C(C=C(C1)C)CC(=O)Cl | C10H11ClO
product | 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-5-iodo-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)I)Cl)NC(CC1=CC(=CC(=C1)C)C)=O)=O | C18H17ClINO3
